US07071337B2
{1-[2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester
Trifluoro-methanesulfonic acid 2-(5-methoxy-benzoimidazol-1-yl)-quinolin-8-yl ester F (15.0 9, 35.4 mmol) and piperidin-4-yl-carbamic acid tert-butyl ester (14.2 9, 70.9 mmol) were dissolved in 200 mL of dioxane under an atmosphere of dry N2. To this solution was added Cs2CO3 (16.2 g, 49.6 mmol), racemic-BINAP (1.28 9, 2.12 mMol) and tris(dibenzylideneacetone)dipalladium (0) (1.29 9, 1.41 mMol) and the reaction mixture was heated to 100° C. and reacted at this temperature overnight. The mixture was then cooled to ambient temperature, filtered, and concentrated under vacuum to give an orange foam. The foam was chromatographed on flash silica gel eluting with a gradient from ethyl acetate (EtOAc)/DCM (1:5) to EtOAc/DCM (7:3) give 12.3 g of G as a slightly yellow solid.

reactant | Trifluoro-methanesulfonic acid 2-(5-methoxy-benzoimidazol-1-yl)-quinolin-8-yl ester | COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)OS(=O)(=O)C(F)(F)F)C=C1 | C18H12F3N3O4S
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | 70.9 mmol | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | Cs2CO3 | 49.6 mmol, 16.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 2.12 mMol | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 1.41 mMol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | {1-[2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C=1C=CC=C2C=CC(=NC12)N1C=NC2=C1C=CC(=C2)OC)=O | C27H31N5O3
